US04232029
2-Hydroxyimino-1-Dimethylamino-3-Butanone Hydrochloride (II; R1,. R2 and R3 =Me)
To a solution of 4-dimethylamino-2-butanone[34.5 g, 0.3 moles, described by E. C. du Feu et al., J. Chem. Soc., 56 (1937)] in dry isopropanol (120 ml), gaseous hydrogen chloride is introduced at 0° C. until the solution is acidic to congo red (ca. pH=4). Isopropanol saturated with hydrogen chloride (2 ml) is added. Isopropyl nitrite (29.4 g, 0.33 moles) is added dropwise with stirring while maintaining the reaction temperature at 30° to 35° C. After 30 min, diethyl ether (100 ml) is added and the mixture is stirred for 30 min. The precipitate is collected to obtain 47 g of the title compound, mp 188°-199° C. The latter precipitate is crystallized from ethanol-diethyl ether to obtain 32 g of title compound; mp 205°-206° C., nmr(DMSO-d6) δ 2.4(s), 2.75(s), 4.07(s) and 12.35(broad singlet).

reactant | 4-dimethylamino-2-butanone | 0.3 moles, 34.5 g | CN(CCC(C)=O)C | C6H13NO
reactant | Isopropyl nitrite | 0.33 moles, 29.4 g | N(=O)OC(C)C | C3H7NO2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen chloride | 2 ml | Cl | ClH
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 2-Hydroxyimino-1-Dimethylamino-3-Butanone Hydrochloride | 47 g | Cl.ON=C(CN(C)C)C(C)=O | InChI=1S/C6H12N2O2.ClH/c1-5(9)6(7-10)4-8(2)3;/h10H,4H2,1-3H3;1H
